US09216981B2
The tert-butyl-2,6-difluoro-3-(1-methylethylsulfonamido)phenylcarbamate (100 mg, 0.3 mmol) prepared at Step 4 was added into ethylacetate solvent and, hydrogen chloride (4M solution in 1,4-dioxane) was applied and stirred at room temperature for 5 hours. After the reaction, the solvent was concentrated and vacuum filtrated, and the remaining solid was washed with diethyl ether and hexane and dried, so that 65 mg of the target compound, N-(3-amino-2,4-difluorophenyl)propane-2-sulfonamide (percentage yield: 91%), was obtained.

reactant | tert-butyl-2,6-difluoro-3-(1-methylethylsulfonamido)phenylcarbamate | 0.3 mmol, 100 mg | C(C)(C)(C)OC(NC1=C(C(=CC=C1F)NS(=O)(=O)C(C)C)F)=O | C14H20F2N2O4S
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | N-(3-amino-2,4-difluorophenyl)propane-2-sulfonamide | yield: 91% | NC=1C(=C(C=CC1F)NS(=O)(=O)C(C)C)F | C9H12F2N2O2S
